data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3556,4054,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([C:15]#[N:16])[c:17](=[O:18])[o:19]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]1([CH3:11])[NH:13][C:14]2([C:15]#[N:16])[C:17](=[O:18])[O:19]1,water,298.15,35.13329635483903,5.667362701199802
3398,3865,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[O:7]=[c:8]1[o:9][n:10][nH+:11][c-:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:12]2([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[C:8](=[O:7])[O:9][N:10]1[NH:11]2,water,298.15,42.985684776842575,-20.578290731780825
4818,5500,[CH3:9][NH:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,22.034926396483087,-18.49655686128868
4974,5661,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[CH:18]=[NH+:19][C-:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:20]([CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:19][CH:18]2[C:16]([CH3:15])=[O:17],water,298.15,12.936090426437492,0.8511471563051325
3870,4429,[CH3:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][c:17]([CH3:18])[n+:19]1[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]2([CH3:18])[O:16][C:14](=[O:15])[C:13]1([C:11]([CH3:10])=[O:12])[N:19]2[CH3:20],water,298.15,35.04379493036479,12.111144097391104
1521,1677,[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[N:10]#[C:11][c-:12]1[nH+:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o:21][c:22]1=[O:23]>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:12]1([C:11]#[N:10])[NH:13][C:14]2([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:21][C:22]1=[O:23],water,298.15,36.36191504220552,7.100165178689648
1262,1379,[CH3:14][N-:15][O+:16]=[C:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:17]([C:18]([CH3:19])=[O:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:16][N:15]2[CH3:14],water,298.15,8.547000118550574,-31.295422329710608
5178,5876,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([NH+:20]=[C:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26])[C:27](=[O:28])[NH:29][CH3:30]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:27](=[O:28])[NH:29][CH3:30])[NH:20][C:21]2([C:22]#[N:23])[C:24]([CH3:25])=[O:26],water,298.15,30.077472046092485,0.6463220002823667
3772,4321,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][CH-:18][C:19]#[N:20]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:18]([C:19]#[N:20])[NH:17][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,20.812095346924195,-22.62839454990589
1353,1484,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[N:21][C:22](=[O:23])[O:24][CH3:25].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][N:21]2[C:22](=[O:23])[O:24][CH3:25],water,298.15,19.35422462858243,-60.080901959175385
927,1005,[CH3:12][CH-:13][O+:14]=[C:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:15]([C:16]([CH3:17])=[O:18])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[O:14][CH:13]3[CH3:12],water,298.15,17.041438807634147,-64.94694751391579
3018,3370,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C:6]#[N+:7][CH-:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[CH2:1]1[CH2:2][CH:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[N:7]=[C:6]1[C:4]([CH3:3])=[O:5],water,298.15,16.399098396254207,-45.99103271176681
